* =============================================================================
* JUG — SINGLE-TAIL MAC Cell Library
* File:      mac_cell_jug.spice
* Process:   SkyWater Sky130A  (sky130_fd_pr)
* Simulator: ngspice 37+
*
* Subcircuits defined:
*   mac_cell_jug    single-tail MAC cell (Cw drives the MAC; Ce is a COMPARE-ONLY node)
*
* =============================================================================
* ★★ WHAT CHANGED FROM mac_cell_emx: **MN3_e (the E-TAIL) IS DELETED.**
* =============================================================================
*
* The old cell was DUAL-TAIL — I_ntail = I_tail_W + I_tail_E — so Ce injected current
* into the MAC and the effective weight was (W + E).  That was deliberate: under the
* OLD learning rule, E was a live residual the MAC was MEANT to see.
*
* Under the JUG, E is an ACCUMULATOR, not a residual, and its presence in the forward
* path is PURELY HARMFUL.  Measured (weight codes that a full-threshold E contributes
* to the MAC; bit-accurate model, BIG topology, EMNIST letters):
*
*     E in MAC:   0      0.1     0.2    0.4*    1.0     2.0        6.7
*     accuracy:  81.96  82.06  81.32  80.46  76.83  COLLAPSE  COLLAPSE
*                                       ^^^^          47->12%    ->10%
*                              * = the OLD gm_E ~ gm_W design point
*
* It is a POSITIVE-FEEDBACK RUNAWAY: E feeds the MAC -> activations grow -> deltas grow
* -> E grows faster -> fires more.  Fire rate explodes 0.91%/fold -> 14.8% -> 19.3%.
* The old design point sat at ~0.4 codes: ALREADY LOSSY, and only ~2.5x from runaway,
* on a gm ratio that drifts with process and temperature.
*
* => Ce NEVER needs to inject current into the MAC.  It only needs to be COMPARED
*    against a threshold (see jug_compare.spice).  So MN3_e goes.
*
* ── THREE CONSEQUENCES, ALL GOOD ─────────────────────────────────────────────
*
* 1. **The V_bias_e triode conflict DISSOLVES.**  mac_cell_emx was forced to
*    V_bias_e = VPI = 0.65 V (not VCM = 0.9 V) because MN3_e shared `ntail`: at 0.9 V the
*    MN3_e saturation requirement V(ntail) > 0.42 V and the diff-pair requirement
*    V(ntail) < inp - Vth = 0.42 V were SIMULTANEOUSLY IMPOSSIBLE.  Both tails collapsed
*    into triode at V(ntail) ~ 22 mV (SPICE, 2026-06-27).  That cost a design iteration.
*    THAT CONFLICT EXISTED ONLY BECAUSE MN3_e SHARED ntail.  It is gone with the device.
*    => V_bias_e is now set PURELY by the comparator's input common-mode range.
*       DO NOT inherit 0.65 V by default — re-derive it in jug_compare.spice.
*
* 2. **The SPICE job SHRINKS.**  gm_E characterisation and the "gm_E ~ gm_W" matching
*    requirement are DELETED.  This cell needs gm_W only.
*
* 3. **Ce is FREE TO SWING.**  The old E_MAX_V = +-55 mV was a MAC constraint (Ce had to
*    stay in the tail's linear window).  Ce is out of the signal path now, so its swing is
*    bounded only by inject compliance and comparator range.  The jug needs ~+-100 mV
*    (see PHYSICAL_SPEC.md §3) — which would NOT have fitted under +-55 mV.
*    ** THE THERMAL-NOISE BUDGET ONLY CLOSES BECAUSE THE E-TAIL IS GONE. **
*
* Supply conventions:
*   VDD = 1.8 V   (sky130_fd_pr__[np]fet_01v8 nominal supply)
*   VSS = 0 V     (substrate / bulk reference)
*   VCM = 0.9 V   (common-mode reference from bias_gen)
*
* All W/L in MICRONS (ngspice hsa mode sets scale=1e-6).  Capacitors in Farads.
* =============================================================================


* =============================================================================
* Subcircuit: mac_cell_jug
* =============================================================================
*
*   Cw (200 fF): WeightMx capacitor.  Vw in [0.50, 1.35 V], 121 codes.
*     MN3_w: THE ONLY TAIL.  I_tail ~ (Vw - Vth)^2.
*     ** ONE weight LSB = 7.02 mV on Cw  =>  dQ = 1.405 fC. **  (PHYSICAL_SPEC.md §2)
*     Written by weight_dac (load / refresh) and by the JUG CHARGE PUMP (+-1 code per fire).
*     Backed by W-SRAM; refresh_ctrl restores it against leakage.
*
*   Ce (100 fF): the JUG.  Accumulates signed (delta * x) charge injections and IS NEVER
*     DISCHARGED.  Read ONLY by the comparator in jug_compare.spice.
*     ** NOT IN THE SIGNAL PATH. It drives no transistor gate in this cell. **
*     Swing ~ +-100 mV about V_bias_e (free — see note 3 above).
*
* Port list:
*   iout      output current node           -> to accumulation bus
*   inp       differential input IN+        <- signal (one dim of x_in)
*   inn       differential input IN-        <- tied to VCM for single-ended use
*   vw        WeightMx voltage node         <- probe / weight_dac / charge pump target
*   iwrite_w  W DAC current input           <- from weight_dac
*   we_w      W write enable (0/1.8 V)      <- high = write Cw; low = hold
*   ve        JUG voltage node              <- probe / inject target / COMPARATOR INPUT
*   iwrite_e  E inject current input        <- from e_inject circuit
*   we_e      E write enable (0/1.8 V)      <- high = inject onto Ce; low = hold
*   vdd       1.8 V supply
*   vss       0 V ground
*
* NOTE `ve` is now an OUTPUT-ONLY sense node as far as this cell is concerned: nothing
* inside mac_cell_jug reads it.  It exists so the comparator can.
* -----------------------------------------------------------------------------
.subckt mac_cell_jug iout inp inn vw iwrite_w we_w ve iwrite_e we_e vdd vss

* -- PMOS current mirror load ---------------------------------------------
* Unchanged.  L=0.7 um reduces CLM and improves mirror accuracy.
XMP1 nmp1 nmp1 vdd vdd sky130_fd_pr__pfet_01v8 w=4 l=0.7
XMP2 iout nmp1 vdd vdd sky130_fd_pr__pfet_01v8 w=4 l=0.7

* -- NMOS differential input pair -----------------------------------------
* Sources tied to ntail.  The tail current is now set SOLELY by Cw.
XMN1 nmp1  inp  ntail vss sky130_fd_pr__nfet_01v8 w=2 l=0.35
XMN2 iout  inn  ntail vss sky130_fd_pr__nfet_01v8 w=2 l=0.35

* -- THE ONLY TAIL (WeightMx) ---------------------------------------------
* Gate = Vw.  I_tail ~ (Vw - Vth)^2.
*
* ★★★ W = 2, NOT 10.  THIS IS A BUG FIX, NOT A TUNING CHOICE. ★★★
* At w=10 (the inherited value) MN3_w demands more current than the w=4 PMOS mirror can
* supply.  ntail COLLAPSES (222 mV -> 15 mV), MN3_w drops into TRIODE (it needs
* V_ds > V_gs - V_th ~ 0.45 V; at WGT_ZERO it has 31 mV), and I_tail SATURATES.  The output
* node also sags to ~0.195 V under the 100k row load, starving MN2 as well.
*
* CONSEQUENCE AT w=10: the effective weight gm(V_w) PEAKS at V_w ~ 0.90 V and FALLS above it.
* WGT_ZERO (code 132) sits at V_w = 0.927 V — ON THE PEAK.  So codes 119..192 — THE ENTIRE
* POSITIVE WEIGHT RANGE — are dead or INVERTED: a fire that should push the weight UP pushes
* it slightly DOWN.  Measured: code 191 (which should be the MOST POSITIVE weight available)
* delivers a NEGATIVE effective weight.
*
* Predates the jug; affects EMX, FABLE and every accuracy number in the project.  Never
* caught because every testbench pinned V_w = 0.75 V (code 107 — the healthy RISING side of
* the peak), and the WGT_ZERO sign check was a PRODUCT (I_diff(128)*I_diff(136) < 0), which
* passes for an INVERTED response too.  See THE_WEIGHT_IS_NOT_LINEAR.md.
*
* w=2 keeps MN3_w in saturation across the WHOLE V_w range and restores a MONOTONIC,
* correctly-signed weight (measured 4.6 -> 17.4 -> 50.0 -> 61.8 -> 65.9 -> 67.6 uA/V across
* V_w = 0.60 .. 1.35).  Still COMPRESSIVE (low codes far more sensitive than high) —
* monotonic and correctly signed, but NOT LINEAR, which the sim still assumes.
XMN3_w ntail vw  vss vss sky130_fd_pr__nfet_01v8 w=2 l=0.35

* ***  XMN3_e DELETED — see the header. Ce drives NOTHING in the signal path.  ***

* -- Storage capacitors ---------------------------------------------------
* Cw: the weight.  Droop ~50 uV/s (subthreshold leakage 5-10 fA); refresh_ctrl restores it.
* Ce: THE JUG.  Same leakage => ~140 s per E-LSB, against an inter-fire interval of
*     ~tens of ms.  tau_leak / inter-fire ~ 1e3-1e4, so on the firing timescale Ce is a
*     PURE INTEGRATOR — which is exactly the best-performing configuration in simulation.
*     ** The physics hands us the optimum for free. No leak trim, no servo, no replica bias. **
Cw vw vss 200e-15
Ce ve vss 100e-15

* -- W access CMOS Transmission Gate --------------------------------------
Bwe_w_n we_w_n 0 V = v(vdd) - v(we_w)
XMN4_w iwrite_w we_w   vw       vss sky130_fd_pr__nfet_01v8 w=0.5 l=0.5
XMP4_w vw       we_w_n iwrite_w  vdd sky130_fd_pr__pfet_01v8 w=1.0 l=0.35

* -- E (jug) access CMOS Transmission Gate --------------------------------
* Passes the signed inject charge onto Ce when we_e = high.  Hold (we_e = 0): both off,
* Ce holds its charge with leakage only.
* ** kT/C NOISE IS SAMPLED EVERY TIME THIS SWITCH CLOSES. ** That is the ONE tight spec
* in the whole design: sigma(kT/C) must be <= 0.1 * theta.  sqrt(kT/C) on 100 fF is
* 204 uV rms; with theta ~23 mV and N=128 injections/fold, sqrt(128)*204u = 2.3 mV = 0.1*theta.
* MEASURED tolerance (bit-accurate model, ref 81.96%):
*     sigma/theta:  0.05 -> 81.75 (free) | 0.10 -> 81.36 | 0.25 -> 78.55 | 1.0 -> COLLAPSE
* WHY this is the one tight spec: every other perturbation corrupts a DECISION (when a
* synapse fires, or occasionally which way) and the residue subtraction undoes it, because
* CHARGE IS CONSERVED.  Thermal noise corrupts the EVIDENCE — and charge that was never
* real cannot be subtracted back out.
Bwe_e_n we_e_n 0 V = v(vdd) - v(we_e)
XMN4_e iwrite_e we_e   ve       vss sky130_fd_pr__nfet_01v8 w=0.5 l=0.5
XMP4_e ve       we_e_n iwrite_e  vdd sky130_fd_pr__pfet_01v8 w=1.0 l=0.35

.ends mac_cell_jug


* =============================================================================
* End of library
* =============================================================================
